US08309718B2
Step 1. 4-(2-pyrrolidin-1-ylethoxy)aniline
A mixture of 1-[2-(4-nitrophenoxy)ethyl]pyrrolidine (from Combi-Blocks, LLC, 5.00 g, 0.0212 mol) in 100 mL of MeOH was hydrogenated in the presence of 0.5 g 10% Pd/C, under balloon pressure of hydrogen, overnight. After filtering off the catalyst, the filtrate was evaporated to dryness and used directly in next step (4.36 g, 99.88%). LCMS (M+H) 207.4.

reactant | 1-[2-(4-nitrophenoxy)ethyl]pyrrolidine | 0.0212 mol, 5.00 g | [N+](=O)([O-])C1=CC=C(OCCN2CCCC2)C=C1 | C12H16N2O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 4-(2-pyrrolidin-1-ylethoxy)aniline | N1(CCCC1)CCOC1=CC=C(N)C=C1 | C12H18N2O
